US08309562B2
4-{4-[Methyl-(2-methyl-quinazolin-4-yl)-amino]-phenyl}-[1,2,4]triazolidine-3,5-dione
To a solution of methyl 2-[({4-[methyl(2-methylquinazolin-4-yl)amino]phenyl}amino)carbonyl]hydrazine carboxylate 0.150 g (0.4 mmol) in THF 5 mL was added K2CO3 0.138 g (1.0 mol), and the reaction mixture was stirred for 48 h under reflux. Due to the incompletion of the reaction, the reaction was further heated under microwave irradiation at 120° C. for 20 min. The reaction mixture was filtrated with a short silica-get column using methanol, and methanol was evaporated under reduced pressure to obtain a crude product, which was purified with preparative HPLC to give the titled compound in pure form. 1H NMR (CD3OD, 400 MHz): δ 8.21, 8.19 (dd, 1H, J=8.0, 1.2 Hz), 7.87-7.83 (m, 2H), 7.79-7.75 (m, 1H), 7.71, 7.69 (dd, 1H, J=8.4, 0.8 Hz), 7.65-7.59 (m, 2H), 7.59-7.53 (m, 1H), 7.30-7.26 (m, 1H), 6.98 (d, 1H, J=8.4 Hz), 3.87 (s, 3H), 2.80 (s, 3H). m/e: 349.30 (M+1), 347.25 (M−1).

reactant | methyl 2-[({4-[methyl(2-methylquinazolin-4-yl)amino]phenyl}amino)carbonyl]hydrazine carboxylate | 0.4 mmol, 0.150 g | CN(C1=CC=C(C=C1)NC(=O)NNC(=O)OC)C1=NC(=NC2=CC=CC=C12)C | C19H20N6O3
reactant | K2CO3 | 1.0 mol, 0.138 g | C(=O)([O-])[O-].[K+].[K+]
reactant | methanol | CO | CH4O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 4-{4-[Methyl-(2-methyl-quinazolin-4-yl)-amino]-phenyl}-[1,2,4]triazolidine-3,5-dione | CN(C1=CC=C(C=C1)N1C(NNC1=O)=O)C1=NC(=NC2=CC=CC=C12)C | C18H16N6O2
